US07737149B2
A solution of (trimethylsilyl)diazomethane ((0.611 mL, 3.84 mmol) 2.0M in diethyl ether) was added dropwise to a stirred suspension of 4-((4-methylpiperazin-1-yl)methyl)benzoic acid (0.75 g, 3.20 mmol) in toluene (21 mL) and methanol (7 mL) over a period of 10 mins under nitrogen. The resulting suspension was stirred at room temperature for 3 h. A further aliquot of (trimethylsilyl)diazomethane (1.222 mL, 7.68 mmol) was added dropwise and the solution was stirred at room temperature for a further 18 h. The reaction mixture was evaporated to dryness to afford the crude product (0.723 g) as a white solid. This was taken up in DCM and the insolubles were filtered off. The filtrate was evaporated to dryness to afford the crude product. This was taken up in DCM again and more insolubles were filtered off to afford methyl 4-((4-methylpiperazin-1-yl)methyl)benzoate (0.351 g, 44.2%), which was used without purification.

reactant | (trimethylsilyl)diazomethane | 3.84 mmol, 2.0M, 0.611 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | 4-((4-methylpiperazin-1-yl)methyl)benzoic acid | 3.20 mmol, 0.75 g | CN1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C13H18N2O2
reactant | (trimethylsilyl)diazomethane | 7.68 mmol, 1.222 mL | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | toluene | 21 mL | C1(=CC=CC=C1)C | C7H8
solvent | methanol | 7 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | methyl 4-((4-methylpiperazin-1-yl)methyl)benzoate | 0.351 g, 44.2% | CN1CCN(CC1)CC1=CC=C(C(=O)OC)C=C1 | C14H20N2O2
